US05212187
N-[4-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.75 g (2 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.54 g (2.3 mmol) of 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography (eluant: methylene chloride/methanol 9+1) analogously to Example 63 yields the purified title compound in the form of a dry foam; MS (+FAB method): m/z (rel. int.[%])=589 ([M+H]+, 2), 230 (100); IR (KBr): 1650 cm-1 (C=O). For analytical purposes a sample is converted into the maleic acid salt and recrystallised from ether/ethanol; m.p.: from 90° C. with decomposition.

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,4-butanediamine | 2 mmol, 0.75 g | ClC1=CC=C(C=C1)C(CCN(CCCCN)C)C1=NC=CC=C1 | C19H26ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | 2.3 mmol, 0.54 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[4-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCCCNC(=O)NCCSCC=1N=C(SC1)NC(=N)N)C1=NC=CC=C1 | C27H37ClN8OS2
